US06372922B1
(−) secoisolariciresinol (100 mg,) was dissolved in THF (5 ml) and to it was added a solution of triphenyl phosphine chloride in acetonitrile (1 ml) and the mixture was stirred at 0-80° C. for 1-10 hours. After completion of the reaction, the reaction mixture was concentrated under vacuum and the residue thus obtained was chromatographed over florosil column. Elution of the column with 30% EtOAC in pet. ether gave (−-3,4-divanillyl tetrahydrofuran (77 mg), m.p. 114-116° C.

reactant | (−) secoisolariciresinol | 100 mg | COC1=C(C=CC(=C1)C[C@@H](CO)[C@@H](CC2=CC(=C(C=C2)O)OC)CO)O | C20H26O6
reactant | triphenyl phosphine chloride | [Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 3,4-divanillyl tetrahydrofuran | 77 mg | C(C1=CC(OC)=C(O)C=C1)C1COCC1CC1=CC(OC)=C(O)C=C1 | C20H24O5
